US05158952
To a stirred solution of 1.2 parts of 3-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-6,7,8,9-tetrahydro-9-hydroxy-2-methyl-4H-pyrido[1,2-a]-pyrimidin-4-one in 21 parts of dichloromethane and 5 parts of water were simultaneously added dropwise a solution of 1.1 parts of decanoyl chloride in 13 parts of dichloromethane and a solution of 1 part of sodium hydroxide in 6 parts of water. Upon complete addition, stirring was continued for 2 hours at room temperature. Another portion of 1.1 parts of decanoyl chloride was added and stirring was continued overnight at room temperature. The product was extracted with dichloromethane. The extract was washed with water, dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the hydrochloride salt in 2-propanol. The product was filtered off and dried, yielding 0.9 parts (45.9%) of [3-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-6,7,8,9-tetrahydro-2-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidin-9-yl]decanoate dihydrochloride; mp. 221.4° C. (Compound 6)

reactant | 3-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-6,7,8,9-tetrahydro-9-hydroxy-2-methyl-4H-pyrido[1,2-a]-pyrimidin-4-one | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCC2=C(N=C3N(C2=O)CCCC3O)C)C=C1 | C23H27FN4O3
reactant | decanoyl chloride | C(CCCCCCCCC)(=O)Cl | C10H19ClO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | [3-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-6,7,8,9-tetrahydro-2-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidin-9-yl]decanoate dihydrochloride | 45.9% | Cl.Cl.FC1=CC2=C(C(=NO2)C2CCN(CC2)CCC2=C(N=C3N(C2=O)CCCC3OC(CCCCCCCCC)=O)C)C=C1 | InChI=1S/C33H45FN4O4.2ClH/c1-3-4-5-6-7-8-9-12-30(39)41-28-11-10-18-38-32(28)35-23(2)26(33(38)40)17-21-37-19-15-24(16-20-37)31-27-14-13-25(34)22-29(27)42-36-31;;/h13-14,22,24,28H,3-12,15-21H2,1-2H3;2*1H
